US08536168B2
3-{4-[1-(4-Fluoro-benzyl)-1H-indol-3-yl]-piperidine-1-carbonyl}-benzonitrile
3-[4-(1H-Indol-3-yl)-piperidine-1-carbonyl]-benzonitrile (0.08 g, 0.24 mmol) is dissolved in 2 ml THF, then 2 ml of 50% NaOH, 0.2 ml tetrabutyl ammonium hydroxide (1.0M in MeOH), 4-fluoro-benzyl bromide (0.055 g, 0.29 mmol) are added and the reaction mixture is stirred at RT for 1.5 hours. The layers are separated and the organic solvent is removed under the reduced pressure, purified by a silica gel flash column using heptane and ethyl acetate as the elutes.

reactant | 3-[4-(1H-Indol-3-yl)-piperidine-1-carbonyl]-benzonitrile | 0.24 mmol, 0.08 g | N1C=C(C2=CC=CC=C12)C1CCN(CC1)C(=O)C=1C=C(C#N)C=CC1 | C21H19N3O
reactant | NaOH | 2 ml | [OH-].[Na+]
reactant | tetrabutyl ammonium hydroxide | 1.0M, 0.2 ml | [OH-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 4-fluoro-benzyl bromide | 0.29 mmol, 0.055 g | FC1=CC=C(CBr)C=C1 | C7H6BrF
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-{4-[1-(4-Fluoro-benzyl)-1H-indol-3-yl]-piperidine-1-carbonyl}-benzonitrile | FC1=CC=C(CN2C=C(C3=CC=CC=C23)C2CCN(CC2)C(=O)C=2C=C(C#N)C=CC2)C=C1 | C28H24FN3O
